US06864265B2
To a solution of (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-amine (0.27 g, 1.5 mmol) and 4-[[N-(t-butoxycarbonyl)-N-(2-pyridinylmethyl)amino]methyl]benzaldehyde (prepared as described by Bridger et al, U.S. patent application Ser. No 09/535,314) (0.57 g, 1.7 mmol) in CH2Cl2 (15 mL) was added NaBH(OAc)3 (0.48 g, 2.3 mmol) and the mixture stirred at room temperature for 16 h. Purification of the crude material by column chromatography on silica gel (5% MeOH/CH2Cl2) gave {4-[(3-methoxy-5,6,7,8-tetrahydroquinolin-8-ylamino)-methyl]-benzyl}-pyridin-2-ylmethyl-carbamic acid tert-butyl ester (0.43 g, 58%). 1H NMR (CDCl3) δ1.45 (m, 9H), 1.77 (m, 2H), 2.00 (m, 1H), 2.12 (m, 1H), 2.77 (m, 2H), 3.80 (m, 1H), 3.81 (s, 3H), 3.85 (d, 1H, J=12.0 Hz), 3.95 (d, 1H, J=12.0 Hz), 4.44 (br s, 2H), 4.55 (br s, 2H), 6.88 (d, 1H, J=1.5 Hz), 7.15 (m, 2H), 7.23 (br s, 2H), 7.34 (d, 2H, J=6.0 Hz), 7.62 (t, 1H, J=7.5 Hz), 8.11 (d, 1H, J=1.5 Hz), 8.52 (d, 1H, J=6.0 Hz).

reactant | (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-amine | 1.5 mmol, 0.27 g | COC=1C=NC=2C(CCCC2C1)N | C10H14N2O
reactant | 4-[[N-(t-butoxycarbonyl)-N-(2-pyridinylmethyl)amino]methyl]benzaldehyde | C(C)(C)(C)OC(=O)N(CC1=NC=CC=C1)CC1=CC=C(C=O)C=C1 | C19H22N2O3
reactant | NaBH(OAc)3 | 2.3 mmol, 0.48 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | {4-[(3-methoxy-5,6,7,8-tetrahydroquinolin-8-ylamino)-methyl]-benzyl}-pyridin-2-ylmethyl-carbamic acid tert-butyl ester | 0.43 g, 58% | C(C)(C)(C)OC(N(CC1=NC=CC=C1)CC1=CC=C(C=C1)CNC1CCCC=2C=C(C=NC12)OC)=O | C29H36N4O3
